US05541343
6-Cyano-2-naphthylcarbonylchloride
2.8 g of naphthalene-2,6-dicarboxylic acid monoamide, 10 ml of thionylchloride and 1 drop of dimethylformamide are refluxed for 5 hours. The clear yellow solution is evaporated down in vacuo and the solid evaporation residue is mixed with 20 ml of diethylether and 20 ml of petroleum ether, then stirred and suction filtered. The filter cake is washed with petroleum ether and diethylether and dried in vacuo.

reactant | naphthalene-2,6-dicarboxylic acid monoamide | 2.8 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)N | C12H9NO3
reactant | thionylchloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 6-Cyano-2-naphthylcarbonylchloride | C(#N)C=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C12H6ClNO
